US07919506B2
Preparation 2: (2-Bromo-5-(trifluoromethyl)phenyl)methanol
To an ice-cooled solution of 2-bromo-5-(trifluoromethyl)benzoic acid (5.16 g, 19 mmol) in THF (50 mL) was added borane-tetrahydrofuran complex (70 mL of 1M solution in THF, 70 mmol). The resulting mixture was stirred at room temperature for 16 hours. The reaction mixture was quenched with methanol. Solvent was removed. The residue was partitioned between ethyl acetate (3×40 mL) and 1M sodium bicarbonate (50 mL). The combined organic layers were washed with saturated NaCl (50 mL), dried (MgSO4) and concentrated to yield the title compound as an oil (4.85 g). 1H NMR (400 MHz, CDCl3) δ 4.8 (s, 2H) 7.5 (m, 1H) 7.7 (d, J=8.2 Hz, 1H) 7.8 (d, J=1.6 Hz, 1H).

reactant | 2-bromo-5-(trifluoromethyl)benzoic acid | 19 mmol, 5.16 g | BrC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C8H4BrF3O2
reactant | borane tetrahydrofuran | 70 mmol, 1M, 70 mL | B.O1CCCC1
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (2-Bromo-5-(trifluoromethyl)phenyl)methanol | 4.85 g | BrC1=C(C=C(C=C1)C(F)(F)F)CO | C8H6BrF3O
